US07553854B2
Preparation of 4-(2-((1S,2S)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide (Table 2, Compound 137)
To the solution of 4-(2-methanesulfinyl-benzothiazol-6-yloxy)-pyridine-2-carboxylic acid methylamide (70 mg, 0.202 mmol, 1.0 eq) in DMA (600 μL), was added (1S,2S)-2-aminocyclohexanol hydrochloride (92 mg, 0.606 mmol, 3.0 eq) followed by diisopropylethylamine (0.21 mL, 1.21 mmol). The reaction was heated at 110° C. for 24-hours. The neat reaction mixture was purified on reverse phase preparatory HPLC. Pure fractions were lyophilized as TFA salts. M+H=398

reactant | 4-(2-methanesulfinyl-benzothiazol-6-yloxy)-pyridine-2-carboxylic acid methylamide | 0.202 mmol, 70 mg, 1.0 eq | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)S(=O)C)C=C1 | C15H13N3O3S2
reactant | (1S,2S)-2-aminocyclohexanol hydrochloride | 0.606 mmol, 92 mg, 3.0 eq | Cl.N[C@@H]1[C@H](CCCC1)O
reactant | diisopropylethylamine | 1.21 mmol, 0.21 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMA | 600 μL | CC(=O)N(C)C | C4H9NO
product | 4-(2-((1S,2S)-2-hydroxycyclohexylamino)benzo[d]thiazol-6-yloxy)-N-methylpicolinamide | O[C@@H]1[C@H](CCCC1)NC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)NC | C20H22N4O3S
